US07262206B2
(24) 1,5-diacetyl-3-[(pyridin-4-yl)-hydroxy-methylidene]-2-indolinone
Prepared from 1,5-diacetyl-2-indolinone and isonicotinic acid (pyridine-4-carboxylic acid)

reactant | 1,5-diacetyl-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)C(C)=O)=O | C12H11NO3
reactant | isonicotinic acid | C(C1=CC=NC=C1)(=O)O | C6H5NO2
product | 1,5-diacetyl-3-[(pyridin-4-yl)-hydroxy-methylidene]-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(C)=O)=C(O)C1=CC=NC=C1)=O | C18H14N2O4
